US08236835B2
Synthesis of N-(4-fluorobenzyl)-2-(3-(4-fluorobenzylamino)-2-oxopyrrolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 5, making variation as required to use (4-fluorophenyl)methanamine in place of 2-cyclopropylethanamine to react with 2-(3-bromo-2-oxopyrrolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 85% yield: mp 123-124° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.35-7.21 (m, 4H), 7.06-6.92 (m, 4H), 6.07 (t, J=5.6 Hz, 1H), 4.50 (d, J=5.6 Hz, 2H), 4.20 (t, J=5.6 Hz, 1H), 3.97-3.76 (m, 3H), 3.68 (t, J=8.6 Hz, 1H), 2.60 (s, 3H), 2.53-2.37 (m, 1H), 2.11-1.89 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 173.6, 162.3, 162.2, 162.1, 155.2, 152.8, 135.0, 133.7, 129.8, 129.6, 118.8, 115.6, 115.4, 58.5, 51.0, 44.8, 43.3, 27.1, 17.3; MS (ES+) m/z 457.3 (M+1).

reactant | (4-fluorophenyl)methanamine | FC1=CC=C(C=C1)CN | C7H8FN
reactant | 2-(3-bromo-2-oxopyrrolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | BrC1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F)=O | C16H15BrFN3O2S
product | N-(4-fluorobenzyl)-2-(3-(4-fluorobenzylamino)-2-oxopyrrolidin-1-yl)-4-methylthiazole-5-carboxamide | 85% yield | FC1=CC=C(CNC(=O)C2=C(N=C(S2)N2C(C(CC2)NCC2=CC=C(C=C2)F)=O)C)C=C1 | C23H22F2N4O2S
